US05459138
Stage B: 2-Chloro-5-methyl-3-nitropyridine
5 g of 2-hydroxy-5-methyl-3-nitropyridine are dissolved in 32 cm3 of thionyl chloride to which 2 cm3 of N,N-dimethylformamide have been added. The mixture is then brought to reflux for 2 hours. After removing the solvent under partial vacuum, the product is distributed between distilled water (30 cm3) and chloroform (3×100 cm3). The chloroform fractions are combined, dried over MgSO4, filtered and then concentrated under vacuum. The residue is recrystallized from ethanol/water. Yd.: 60-65%

reactant | 2-hydroxy-5-methyl-3-nitropyridine | 5 g | OC1=NC=C(C=C1[N+](=O)[O-])C | C6H6N2O3
reactant | thionyl chloride | 32 cm3 | S(=O)(Cl)Cl | Cl2OS
solvent | N,N-dimethylformamide | 2 cm3 | CN(C=O)C | C3H7NO
product | 2-Chloro-5-methyl-3-nitropyridine | ClC1=NC=C(C=C1[N+](=O)[O-])C | C6H5ClN2O2
